US08557832B2
To a solution of 1-amino-N-[(1S,2S)-2-aminocyclohexyl]-4-bromo-2-naphthamide (0.460 g, 1.27 mmol) in 20 mL of dichloromethane was added di-tert-butyl dicarbonate (0.305 g, 1.40 mmol). The mixture was stirred at rt for 4 h and then purified via silica gel chromatography, eluting with 0-20% ethyl acetate in hexanes, to provide tert-butyl{(1S,2S)-2-[(1-amino-4-bromo-2-naphthoyl)amino]cyclohexyl)carbamate that gave a mass ion (ES+) of 463.9 for [M+H]+.

reactant | 1-amino-N-[(1S,2S)-2-aminocyclohexyl]-4-bromo-2-naphthamide | 1.27 mmol, 0.460 g | NC1=C(C=C(C2=CC=CC=C12)Br)C(=O)N[C@@H]1[C@H](CCCC1)N | C17H20BrN3O
reactant | di-tert-butyl dicarbonate | 1.40 mmol, 0.305 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-butyl{(1S,2S)-2-[(1-amino-4-bromo-2-naphthoyl)amino]cyclohexyl)carbamate | C(C)(C)(C)OC(N[C@@H]1[C@H](CCCC1)NC(=O)C1=C(C2=CC=CC=C2C(=C1)Br)N)=O | C22H28BrN3O3
